US08022223B2
tert-butyl 4-((2-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-Ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate
Added potassium 2-methylpropan-2-olate (0.443 g, 3.95 mmol) to a solution of 7-chlorothieno[3,2-b]pyridine (0.268 g, 1.58 mmol) and tert-butyl 4-((2-(5-(3-methoxy-3-oxopropylthio)-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate (0.77 g, 1.32 mmol) in DMSO (8 mL). The reaction was stirred for two hours, then set aside to react at ambient temperature for 60 hours. The reaction was partitioned between ethyl acetate and saturated ammonium chloride. Washed the organic layer twice with water and brine, dried, and concentrated. The residue was purified by MPLC (Biotage) eluting with 1:1 hexane:ethyl acetate. The major UV active component with an Rf of 0.3 was collected and concentrated to afford the title compound (0.810 g, 97.4% yield) as a white powder: 1H NMR (CDCl3) δ 8.88 (s, 1H), 8.46 (d, 1H), 8.32 (s, 1H), 7.72 (d, 1H), 7.54 (d, 1H), 7.38 (t, 2H), 7.20 (t, 1H), 7.18 (s, 1H), 7.04 (d, 2H), 6.73 (d, 1H), 6.51 (s, 1H), 4.09 (m, 2H), 2.68 (m, 2H), 2.59 (d, 2H), 1.87 (m, 1H), 1.66 (m, 2H), 1.45 (s, 9H), 1.16 (m, 2H).

reactant | potassium 2-methylpropan-2-olate | 3.95 mmol, 0.443 g | CC(C)(C)[O-].[K+]
reactant | 7-chlorothieno[3,2-b]pyridine | 1.58 mmol, 0.268 g | ClC1=C2C(=NC=C1)C=CS2 | C7H4ClNS
reactant | tert-butyl 4-((2-(5-(3-methoxy-3-oxopropylthio)-3-phenoxypyridin-2-ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate | 1.32 mmol, 0.77 g | COC(CCSC=1C=C(C(=NC1)NC=1SC=C(N1)CC1CCN(CC1)C(=O)OC(C)(C)C)OC1=CC=CC=C1)=O | C29H36N4O5S2
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
product | tert-butyl 4-((2-(3-phenoxy-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-Ylamino)thiazol-4-yl)methyl)piperidine-1-carboxylate | 0.810 g, 97.4% yield | O(C1=CC=CC=C1)C=1C(=NC=C(C1)SC1=C2C(=NC=C1)C=CS2)NC=2SC=C(N2)CC2CCN(CC2)C(=O)OC(C)(C)C | C32H33N5O3S3
